US07351696B2
1-Cyclopropyl-6-fluoro-7-(2-hydroxy-ethylamino)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid (B)
To a solution of ethanolamine (55.5 ml) in N-methyl pyrrolidinone (500 ml) at 95° C., 7-chloro-1-cyclopropyl-6-fluoro-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid (50.0 g) was slowly added under vigorous stirring. The temperature was increased to 105° C. and the reaction mixture was stirred at this temperature for 22 hours. The reaction mixture was cooled to about 60° C. and poured into MeOH (800 ml). This mixture was stirred in an ice bath and the precipitate was filtered off and dried affording a mixture of Intermediate 29A and Intermediate 29B (49 g ) in a 1:1 ratio.

reactant | ethanolamine | 55.5 ml | C(O)CN | C2H7NO
reactant | 7-chloro-1-cyclopropyl-6-fluoro-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | 50.0 g | ClC1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C13H9ClFNO3
reactant | MeOH | 800 ml | CO | CH4O
solvent | N-methyl pyrrolidinone | 500 ml | CN1CCCC1=O | C5H9NO
product | 1-Cyclopropyl-6-fluoro-7-(2-hydroxy-ethylamino)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)NCCO)F)=O)C(=O)O | C15H15FN2O4
